Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[O:1],8.07257936
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6][O:7][H:8],6.96923342151
[C:4]([H:5])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]/[C:3]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.43405531401
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])=[C:6]([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3],6.622248622560001
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]1([H:7])[C:8]([H:9])=[C:10]1[H:11],-1.86941697066
[H:1][C:2][O:3][C:4]([H:5])[H:6].[O:7][C:8]#[C:9][H:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10],-2.13872152488
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1=[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1[C:8][C:10]([H:11])([H:12])[C:13]1([H:14])[H:15].[H:9],4.98230657455
[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.35010116541
[C:3]([H:4])([H:5])=[C:6][H:7].[H:1][C:2]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-0.94231884598
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-6.224767024019999
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[H:13].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:10]([H:11])[H:12],3.46275193281
[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2][O:3][C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5],4.26868133357
[H:1][C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]\[C:13]([H:14])([H:15])[H:16],4.79497718385
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][C:2]([H:3])=[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],1.63085329588
[H:15].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-4.33141098674
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][O:2],5.62395029383
[O:1]=[C:2][C:3]([H:4])([H:5])[H:6]>>[H:6].[O:1]=[C:2]=[C:3]([H:4])[H:5],2.0652683836400003
[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.3336924577
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]1([H:7])[C:8]([H:9])=[C:10]1[H:11]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11],-0.4378201510800001
[C:1]#[C:2][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[C:3]([H:4])([H:5])[H:6]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.67678385843
[C:9]([H:10])[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-8.80861196452
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.951413433
[C:1]#[C:2][C:6]([H:7])=[C:8]([H:9])[H:10].[O:3][O:4][H:5]>>[C:1]=[C:2]([O:3][O:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-1.69080169523
[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.7261207188099998
[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],-8.6940451189
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][H:8]>>[C:5]#[C:6][O:7][H:8].[O:1]=[C:2]([H:3])[H:4],1.96838118282
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[H:7]>>[H:1][C:2][C:4]([H:5])([H:6])[H:7].[H:3],5.28970083644
[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:1]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-3.89093390509
